US08609656B2
(1-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)-3-hydroxyureido]phenyl}-1H-indol-5-yl)carbamic acid 2-methoxyethyl ester (Table 1, Compound No. 83)
The title compound can be synthesized from 1-[4-(5-aminoindol-1-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)-3-hydroxyurea hydrochloride and 2-methoxyethyl chloroformate by using the same techniques as in Example 41.

reactant | 1-[4-(5-aminoindol-1-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)-3-hydroxyurea hydrochloride | Cl.NC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)NC(=O)N(O)C1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | 2-methoxyethyl chloroformate | ClC(=O)OCCOC | C4H7ClO3
product | (1-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)-3-hydroxyureido]phenyl}-1H-indol-5-yl)carbamic acid 2-methoxyethyl ester | COCCOC(NC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)NC(=O)N(O)C1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C26H22ClF3N4O5
